US07943669B2
Step A: {4-[3-Cyclohexylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester
{4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester (200 mg; 0.45 mmol), cyclohexylmethanol (77.6 mg; 0.68 mmol), tributylphosphine (0.27 mL; 1.36 mmol) and 1,1′-(azodicarbonyl)dipiperidine (0.34 g; 1.36 mmol) were dissolved in THF (15 mL) in a dried reaction flask under an atmosphere of nitrogen. After stirring for 1 h the reaction mixture was purified by prep. HPLC (method A). Yield: 200 mg. HPLC-MS: m/z: 538.1 (M+H); Rt: 2.24 min.

reactant | {4-[3-Hydroxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methylphenoxy}-acetic acid ethyl ester | 0.45 mmol, 200 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)O)C)=O | C24H27NO5S
reactant | cyclohexylmethanol | 0.68 mmol, 77.6 mg | C1(CCCCC1)CO | C7H14O
reactant | tributylphosphine | 1.36 mmol, 0.27 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.36 mmol, 0.34 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | {4-[3-Cyclohexylmethoxy-5-(3-morpholin-4-yl-prop-1-ynyl)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCC1CCCCC1)C)=O | C31H39NO5S
